US09359338B2
Step 1: Synthesis of N-(4-hydroxy-2-pyridyl)cyclopropanecarboxamide
Dissolve 2-amino-pyridin-4-ol (5 g, 45.4 mmol) in DCM (30 mL), add Et3N (13.8 g, 136 mmol) and then cyclopropanecarbonyl chloride (14.2 g, 136 mmol) dropwise while keeping the temperature below 10° C. After addition, stir the reaction at room temperature for 16 hrs. Remove the solvent under reduced pressure, dissolve the residue in THF (40 mL), adjust pH=12 with 1N NaOH solution. Stir the mixture for 3 hrs. Concentrate to give the crude product. Purification by chromatography (silica gel, EtOAc:MeOH=9:1) affords the title compound (2.6 g, 32%).

reactant | 2-amino-pyridin-4-ol | 45.4 mmol, 5 g | NC1=NC=CC(=C1)O | C5H6N2O
reactant | Et3N | 136 mmol, 13.8 g | CCN(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 136 mmol, 14.2 g | C1(CC1)C(=O)Cl | C4H5ClO
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | N-(4-hydroxy-2-pyridyl)cyclopropanecarboxamide | 2.6 g, 32% | OC1=CC(=NC=C1)NC(=O)C1CC1 | C9H10N2O2
